US06432993B1
(35-2b) 5-{4-[1-Methyl-6-(4-methoxyphenoxy)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride
In a similar manner to that described in Example (2-2b), a reaction was carried out using 5-{4-[1-methyl-6-(4-methoxyphenoxy)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione (1.8 g) and 4N hydrogen chloride/ethyl acetate (50 ml) and the reaction mixture was purified to give the title compound (1.85 g).

reactant | 5-{4-[1-methyl-6-(4-methoxyphenoxy)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione | 1.8 g | CN1C(=NC2=C1C=C(C=C2)OC2=CC=C(C=C2)OC)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C26H23N3O5S
reactant | hydrogen chloride ethyl acetate | 4N, 50 ml | Cl.C(C)(=O)OCC
product | 5-{4-[1-Methyl-6-(4-methoxyphenoxy)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride | 1.85 g | Cl.CN1C(=NC2=C1C=C(C=C2)OC2=CC=C(C=C2)OC)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | InChI=1S/C26H23N3O5S.ClH/c1-29-22-14-20(34-19-9-7-17(32-2)8-10-19)11-12-21(22)27-24(29)15-33-18-5-3-16(4-6-18)13-23-25(30)28-26(31)35-23;/h3-12,14,23H,13,15H2,1-2H3,(H,28,30,31);1H
